US09260448B2
3-Methoxy-2-phenylacrylonitrile
3-Hydroxy-2-phenylacrylonitrile (12.3 g, 84.7 mmol) was dissolved in dry THF (100 ml) in a reaction vessel, and then NaH (4.1 g, 169.4 mmol) was slowly added thereto. The mixture was stirred at room temperature for 2 hr. Thereafter, dimethyl sulfate (13.7 ml, 144.0 mmol) was added, followed by stirring at 40° C. for 12 hr. After completion of the reaction, the reaction mixture was washed with distilled water and concentrated under reduced pressure. The concentrate was diluted with EtOAc and extracted with EtOAc together with distilled water. The organic layer was dried over anhydrous MgSO4 and filtered. The filtrate was concentrated under reduced pressure to give 17.9 g (112.5 mmol, quant.) of the title compound.

reactant | 3-Hydroxy-2-phenylacrylonitrile | 84.7 mmol, 12.3 g | OC=C(C#N)C1=CC=CC=C1 | C9H7NO
reactant | NaH | 169.4 mmol, 4.1 g | [H-].[Na+]
reactant | dimethyl sulfate | 144.0 mmol, 13.7 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-Methoxy-2-phenylacrylonitrile | COC=C(C#N)C1=CC=CC=C1 | C10H9NO
